US08871756B2
N-(Azetidin-3-yl)-6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-amine
A mixture of tert-butyl 3-[6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-4-ylamino]-azetidine-1-carboxylate (120 mg, 0.2 mmol) and a solution of hydrochloride in 1,4-dioxane (4 N, 20 mL) was stirred at room temperature for 16 hours. The resulting mixture was concentrated in vacuo. The residue was purified by preparative HPLC to afford 50 mg of the desired product (yield was 51%). MS obsd. (ESI+) [(M+H)+] 429, 1H NMR (400 MHz, CD3OD) δ ppm 8.31 (s, 1 H), 8.08-8.06 (d, J=8 Hz, 1 H), 7.87-7.80 (m, 2 H), 7.73-7.68 (m, 2 H), 7.55-7.53 (m, 1 H), 5.84 (s, 1 H), 5.30 (s, 2 H), 4.99-4.96 (m, 1 H), 4.59-4.52 (m, 4 H), 4.32-4.27 (m, 2 H), 3.72 (s, 2 H).

reactant | tert-butyl 3-[6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-4-ylamino]-azetidine-1-carboxylate | 0.2 mmol, 120 mg | ClC=1C=C2C(=CC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)NC2CN(C2)C(=O)OC(C)(C)C | C26H29ClN4O4S
reactant | hydrochloride | Cl | ClH
solvent | 1,4-dioxane | 4 N, 20 mL | O1CCOCC1 | C4H8O2
product | N-(Azetidin-3-yl)-6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-amine | 50 mg, yield was 51% | N1CC(C1)NC1=CC(=NC2=CC=C(C=C12)Cl)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C21H21ClN4O2S
